US07427615B2
Synthesis of 2-[4-(4-Chlorobenzoyl)piperidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (Compound No. D009 in Table-1)
A solution of (4-Chlorobenzoyl)piperidine hydrochloride (55 mg, 0.226 mmol), 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one (50 mg, 0.226 mmol) and triethylamine (0.160 ml, 1.15 mmol) in N,N-dimethylformamide (1 ml) was stirred at 60° C. After stirring for several hours, water was added to the reaction mixture. The precipitate was filtered, washed with water and dried to give the title compound (76 mg, 86%).

reactant | (4-Chlorobenzoyl)piperidine hydrochloride | 0.226 mmol, 55 mg | Cl.ClC1=CC=C(C(=O)N2CCCCC2)C=C1
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one | 0.226 mmol, 50 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | triethylamine | 1.15 mmol, 0.160 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4-Chlorobenzoyl)piperidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 76 mg, 86% | ClC1=CC=C(C(=O)C2CCN(CC2)C2=NC(=CC(N2C)=O)C2=CC=NC=C2)C=C1 | C22H21ClN4O2
